US06020345
Stage 1: 2-[1,3]dioxolan-2-yl-6-isopropenylpyridine
1.62 g of potassium tert-butoxide (14.4 mmol) are added in portions to a suspension of 5.25 g of (methyl)triphenylphosphonium bromide (14.7 mmol) in 30 ml of tetrahydrofuran maintained under a nitrogen atmosphere. The mixture is stirred for 45 minutes and then a solution of 0.95 g of 1-(6-[1,3]dioxolan-2-yl-pyridin-2-yl)ethanone (4.92 mmol) in 5 ml of tetra-hydrofuran is introduced dropwise. The mixture is stirred for 12 hours at room temperature and then it is poured into a saturated aqueous solution of ammonium chloride. The mixture is extracted with ethyl acetate, the organic phase is washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is taken up in diethyl ether and the precipitate formed is removed by filtration. After evaporation of the solvent, the title product is isolated by chromatography on a silica column (eluent: hexane/ethyl acetate; 85:15). 0.67 g of a pale yellow oil is obtained.

reactant | potassium tert-butoxide | 14.4 mmol, 1.62 g | CC(C)([O-])C.[K+]
reactant | 1-(6-[1,3]dioxolan-2-yl-pyridin-2-yl)ethanone | 4.92 mmol, 0.95 g | O1C(OCC1)C1=CC=CC(=N1)C(C)=O | C10H11NO3
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | (methyl)triphenylphosphonium bromide | 14.7 mmol, 5.25 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetra-hydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[1,3]dioxolan-2-yl-6-isopropenylpyridine | O1C(OCC1)C1=NC(=CC=C1)C(=C)C | C11H13NO2
